US05102667
Triethoxyloxonium tetrafluoroborate (4 g) is added to a stirred solution of N-(2-thienyl)methyl-2-(2-methoxyphenyl)acetamide (5.2 g) in anhydrous dichloromethane (50 cc). Stirring of the reaction mixture is continued for 7 hours, at ambient temperature. The mixture is cooled to +5° C. and a solution of (3aR,7aR)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (4.6 g) and triethylamine (5 cc) in dichloromethane (50 cc) is then added. Stirring of the reaction mixture is then continued for 20 hours at ambient temperature and the reaction mixture is then refluxed for 1 hour. It is then treated, after the temperature has returned to ambient temperature, with a 10% aqueous potassium carbonate solution (100 cc); the organic phase is washed with distilled water (40 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a Pechiney CBT1 neutral alumina gel column (diameter 5 cm, height 40 cm), eluting with a mixture of cyclohexane and ethyl acetate (50/50 by volume) and collecting 100 cc fractions. Fractions 4 to 13 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from isopropanol (20 cc); the crystals obtained are drained, washed with isopropyl ether (10 cc) and dried. (3aR,7aR)-2-[2-(2-methoxyphenyl)-1-(2-thienylmethyl)iminoethyl]-7,7-diphenyl-4-perhydroisoindolone (1.9 g) melting at 88° C. is obtained; [α]D20 =-170° (c=1, methanol).

reactant | Triethoxyloxonium tetrafluoroborate | 4 g | F[B-](F)(F)F.O(CC)[O+](OCC)OCC
reactant | N-(2-thienyl)methyl-2-(2-methoxyphenyl)acetamide | 5.2 g | S1C(=CC=C1)CNC(CC1=C(C=CC=C1)OC)=O | C14H15NO2S
reactant | (3aR,7aR)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 4.6 g | Cl.C1(=CC=CC=C1)C1(CCC([C@H]2CNC[C@@H]12)=O)C1=CC=CC=C1
reactant | potassium carbonate | 100 cc | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 50 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 50 cc | ClCCl | CH2Cl2
solvent | triethylamine | 5 cc | C(C)N(CC)CC | C6H15N
product | (3aR,7aR)-2-[2-(2-methoxyphenyl)-1-(2-thienylmethyl)iminoethyl]-7,7-diphenyl-4-perhydroisoindolone | 1.9 g | COC1=C(C=CC=C1)CC(=NCC=1SC=CC1)N1C[C@H]2C(CCC([C@H]2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H34N2O2S
